US03966966
Step A: 2,2-Diethyl-4,5-dimethyl-6-methoxy-indan-1,3-dione
A stirred mixture of 2,3-dimethylanisole (6.8 g., 0.05 mole) and 2,2-diethylmalonyl chloride (10 g., 0.051 mole) in hexane (75ml.) is cooled to 0°C. and treated with aluminum chloride (13.5 g., 0.11 mole) in several portions over a 15 minute period. The reaction is heated at reflux for 2 hours, the hexane is distilled at reduced pressure, the product treated with cold 1N-hydrochloric acid, extracted into ether, washed with water, 5% sodium hydroxide, water then dried over magnesium sulfate. Evaporation of the ether at reduced pressure affords 6.3 g. of 2,2-diethyl-4,5-dimethyl-6-methoxy-indan-1,3-dione which melts at 80°-81°C. after recrystallization from petroleum ether.

reactant | 2,3-dimethylanisole | 0.05 mole, 6.8 g | CC1=C(C=CC=C1C)OC | C9H12O
reactant | 2,2-diethylmalonyl chloride | 0.051 mole, 10 g | C(C)C(C(=O)Cl)(C(=O)Cl)CC | C7H10Cl2O2
reactant | aluminum chloride | 0.11 mole, 13.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | hexane | 75ml | CCCCCC | C6H14
product | 2,2-Diethyl-4,5-dimethyl-6-methoxy-indan-1,3-dione | C(C)C1(C(C2=CC(=C(C(=C2C1=O)C)C)OC)=O)CC | C16H20O3
